US09055749B2
To the crude solution of methyl 3-cyano-4-(1H-1,2,4-triazol-1-yl)-N-[(trimethylsilyl)methyl]benzenecarbimidothioate (Japanese patent application JP2008-143120) was added 2,6-dichloro-4-(3,3,3-trifluoroprop-1-en-2-yl)pyridine (0.15 g) and the resultant mixture was cooled to −10° C. Additionally, a solution of tetrabutylammonium fluoride (0.70 mL of 1.0 M in THF) in THF was added over 10 minutes under argon atmosphere. The reaction mixture was stirred for 30 minutes at the same temperature and returned to room temperature gradually, and then stirred 3 hours. Water was added to the reaction liquor, and aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous brine, and subsequently dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, and the resulting mixture was purified by silica gel chromatography, to obtain 5-[3-(2,6-dichloropyridin-4-yl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]-2-(1H-1,2,4-triazol-1-yl)benzonitrile (0.14 g) at a yield of 46%.

reactant | methyl 3-cyano-4-(1H-1,2,4-triazol-1-yl)-N-[(trimethylsilyl)methyl]benzenecarbimidothioate | C(#N)C=1C=C(C=CC1N1N=CN=C1)C(=NC[Si](C)(C)C)SC | C15H19N5SSi
reactant | 2,6-dichloro-4-(3,3,3-trifluoroprop-1-en-2-yl)pyridine | 0.15 g | ClC1=NC(=CC(=C1)C(=C)C(F)(F)F)Cl | C8H4Cl2F3N
reactant | tetrabutylammonium fluoride | 1.0 M, 0.70 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 5-[3-(2,6-dichloropyridin-4-yl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]-2-(1H-1,2,4-triazol-1-yl)benzonitrile | 0.14 g, yield of 46% | ClC1=NC(=CC(=C1)C1(CN=C(C1)C=1C=CC(=C(C#N)C1)N1N=CN=C1)C(F)(F)F)Cl | C19H11Cl2F3N6
